US09085583B2
To a solution of 3-methyl-1H-pyrazole-4-carboxylic acid (1.26 g, 10 mmol) in methanol (100 mL) was added thionyl chloride (5.73 g, 48 mmol) at 0° C. The mixture was stirred for 12 hours. The solvent was evaporated in vacuo. To the residue, saturated sodium bicarbonate aqueous solution was added and the mixture was extracted with ethyl acetate (100 mL×3). The organic phases were combined, dried over sodium sulfate, filtered and concentrated in vacuo to give methyl 3-methyl-1H-pyrazole-4-carboxylate (0.8 g, 57%). 1H NMR (300 MHz, CDCl3): δ 7.87 (s, 1H), 3.84 (s, 3H), 2.53 (s, 3H).

reactant | 3-methyl-1H-pyrazole-4-carboxylic acid | 10 mmol, 1.26 g | CC1=NNC=C1C(=O)O | C5H6N2O2
reactant | thionyl chloride | 48 mmol, 5.73 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 mL | CO | CH4O
product | methyl 3-methyl-1H-pyrazole-4-carboxylate | 0.8 g, 57% | CC1=NNC=C1C(=O)OC | C6H8N2O2
